US06441005B1
5-(S)-Acetamidomethyl-3-[4′-amino-3′-fluorophenyl]oxazolidine-2-one
Acetic anhydride (0.15 mL) was added to a solution of 5-(S)-aminomethyl-3-[4′-(tert-butoxycarbonyl)amino-3′-fluorophenyl]oxazolidine-2-one (0.325 g, 1.0 mmol) and pyridine (0.25 mL) in DCM (4.0 mL). The mixture was stirred at r.t. for 4 h, and solvent was removed under vacuum. The resulted 5-(S)-acetamidomethyl-3-[4′-(tert-butoxycarbonyl)amino-3′-fluorophenyl]oxazoli-dine-2-one was washed with water (2×3 mL), diethyl ether (3 mL), and dried under vacuum. 50% TFA in DCM (3 mL) was added, and the mixture was kept at r.t. for 1 h. Solvents were removed under vacuum, and the residue distributed between ethyl acetate (40 mL) and saturated aq. sodium bicarbonate (20 mL). Organic layer was washed with aq. sodium bicarbonate, water, brine, dried (MgSO4). Solvent was removed under vacuum to afford the product as a white solid. Yield 0.25 g (95%). MS (m/z): [M+H]+=268.

reactant | Acetic anhydride | 0.15 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-(S)-aminomethyl-3-[4′-(tert-butoxycarbonyl)amino-3′-fluorophenyl]oxazolidine-2-one | 1.0 mmol, 0.325 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)F | C15H20FN3O4
reactant | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 5-(S)-Acetamidomethyl-3-[4′-amino-3′-fluorophenyl]oxazolidine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N)F | C12H14FN3O3
